Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
azithromycin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with no significant past 
medical history presenting with shortness of breath, chest 
tightness, and palpitations.

The patient reports that in ___ of this year she developed a 
fever, cough, and sore throat. She was seen in Student Health, 
where she reports a rapid strep was negative. She was given 
Ibuprofen with resolution of her fevers. Since ___, she has 
felt in her usual state of health without further fevers, cough, 
or shortness of breath.

On the day prior to admission, she felt somewhat more fatigued 
but otherwise in her usual state of health. She denies any 
fevers, chills, cough, shortness of breath at that time. 
However, beginning around 1500 on the day of admission she 
developed chest tightness, palpitations, and shortness of 
breath. No upper respiratory symptoms or cough. No sick contacts 
or recent travel. No known weight loss. No night sweats. Of 
additional note, she is originally from ___, received BCG 
vaccine, moved here in ___. Her mother had ___ in ___ 
for which she completed a 9-month treatment course; the patient 
had limited contact with her mother at that time, and both have 
been well since then.

In the ED, initial vitals: 100.1 ___ 24 99% RA 
Exam notable for: Regular, tachy, dyspneic with clear lungs
No leg swelling
Labs notable for: WBC 20->25 (74N), Ddimer 1053, trop<0.01x2, 
lactate 1.3; flu negative
Imaging notable for: 
- CTA chest: 
1. No evidence of pulmonary embolism or aortic abnormality.
2. Scattered ground-glass opacifications are seen in the 
bilateral lower lobes and left upper lobe. Differential 
considerations include infectious or inflammatory processes, 
favoring a viral pneumonia. 

___ 23:07 IV Adenosine 6 mg 
___ 23:12 IV Adenosine 6 mg  
___ 23:18 IV Metoprolol Tartrate 5 mg 
___ 00:04 IVF  LR 1000 mL 
___ 01:57 IVF  LR 1000 mL  
___ 03:59 IV CefTRIAXone 1 g 
___ 04:29 IH Ipratropium-Albuterol Neb 1 NEB 
___ 04:30 IH Ipratropium-Albuterol Neb 1 NEB  
___ 04:56 IV Azithromycin 500 mg
___ 05:53 PO Doxycycline Hyclate 100 mg

In the ED, the patient was noted to have sinus tachycardia to 
the 150s on arrival and was given adesonine x2 and Metoprolol to 
good effect. Strips showing adenosine administration do not 
appear to have been preserved. She subsequently triggered for 
hypotension, shortness of breath, nausea/vomiting, and 
pre-syncope after receiving azithromycin infusion; infusion was 
stopped. She had no rash.

On arrival to the floor, the patient reports that she feels much 
better after her heart rates improved. Denies any chest pain, 
palpitations, shortness of breath, cough, or any other 
complaints at this time.

 
Past Medical History:
No significant ___
 
Social History:
___
Family History:
Mother had ___ and was treated in ___
 
Physical Exam:
ADMISSION EXAM
VITALS: 98.8 104/65 97 18 98 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE EXAM
VITALS: afebrile throughout hospital course. HR ___ with 
occasional increase 140s, which is not correlated with activity.
General: well-appearing young woman
LYMPH: No LAD
Cardiac: RRR, no m/r/g
Pulm: No wheeze. No rales. Good air movement. Tympanic to 
percussion b/l
Derm: no exanthem
 
Pertinent Results:
ADMISSION LABS:
___ 10:55PM BLOOD WBC: 20.2* RBC: 4.72 Hgb: 13.2 Hct: 41.5 
MCV: 88 MCH: 28.0 MCHC: 31.8* RDW: 12.3 RDWSD: 39.___ 
___ 10:55PM BLOOD Neuts: 79.4* Lymphs: 11.9* Monos: 5.8 
Eos: 2.2 Baso: 0.3 Im ___: 0.4 AbsNeut: 15.98* AbsLymp: 2.40 
AbsMono: 1.17* AbsEos: 0.45 AbsBaso: 0.07 
___ 10:55PM BLOOD ___: 12.1 PTT: 32.1 ___: 1.1 
___ 10:55PM BLOOD D-Dimer: 1053* 
___ 10:55PM BLOOD Glucose: 114* UreaN: 7 Creat: 0.7 Na: 139 
K: 3.9 Cl: 103 HCO3: 23 AnGap: 13 
___ 10:55PM BLOOD cTropnT: <0.01 
___ 04:18AM BLOOD cTropnT: <0.01 
___ 10:57PM BLOOD Lactate: 1.3 

Micro:
- Flu PCR (___): negative
- Blood cultures (___): negative
- Urine culture (___): negative; UA bland
- Induced sputum (___): megative NAAT, negative AFB smear

Imaging:

- CTA chest (___): 
1. No evidence of pulmonary embolism or aortic abnormality.
2. Scattered ground-glass opacifications are seen in the 
bilateral lower lobes and left upper lobe. Differential 
considerations include infectious or inflammatory processes, 
favoring a viral pneumonia. Recommend repeat chest radiograph in 
4 weeks, or sooner if symptoms progress.

- CXR (___): Subtle hazy opacification the left lower lobe 
may reflect a developing pneumonia. 

- EKG (___): Reviewed by me, sinus tachycardia, Qtc 521, 
diffuse STD

- EKG ___ repeat): Sinus tachycardia at 105, QTc 441, STD 
resolved
 
Brief Hospital Course:
# Dyspnea
# Community-acquired pneumonia: 
Patient presenting with chest tightness and shortness of breath. 
Labs notable for WBC 25 with neutrophilic predominance. CTA 
negative for pulmonary embolism, but did demonstrate multifocal 
GGOs concerning for possible pneumonia, suspected viral based on 
imaging findings. Flu negative. Treated empirically for 
community-acquired bacterial pneumonia, with CTX/doxy -> 
Levaquin. Symptoms were mostly resolved at time of discharge.

#Initial concern for possibility of TB
The ED physician who saw her initially had started a TB rule 
out. However, on closer history by medicine, she had essentially 
nothing to support that diagnosis, other than being from an 
endemic area. The patient has no known exposures to friends or 
family members with active pulmonary TB. She has not lost any 
weight. She denies any cough or other respiratory symptoms prior 
to development of her current - likely viral - pneumonia. CT 
chest was not felt by myself or the radiologist to be at all 
suspicious for TB. Thus, after discussing the case with 
infection control, the TB rule out was called off. 

# Palpitations
# Paroxysmal narrow-complex tachycardia: 
Patient has a history of occasional mild palpitations. On 
arrival to our ED, she was given adenosine, which did not break 
the rhythm (although no strip was obtained to allow me to review 
what happened with adenosine administration). 
On the floor, she was monitored on telemetry and was noted to 
occasionally speed up from ___ to ~140. The change in rate was 
rapid, but generally represented the HR speeding up 
progressively over a few seconds, not an immediate change in 
both rate and rhythm from one beat to the next. The p was not 
overtly distinguishable from the sinus p by morphology, although 
the PR interval shortened greatly from 140 ms to 89 ms. ___ 
tachycardia did not correlate with position or exertion; I got 
her out of bed and had her walk around without significant rise 
in HR on tele a that time. Most likely atrial tachycardia, but 
___ is considered also. In either case, these are 
benign as long as she remains predominantly asymptomatic as she 
is now.  
Initial EKG noted to have diffuse repolarization changes that 
resolved with improved rates; trop<0.01x2.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN Cough  
2.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia, likely viral

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a viral pneumonia. There is also a chance 
that this was caused by an atypical bacterium, so we also gave 
you antibiotics out of an abundance of caution. 

There was some question of whether we should formally check you 
for tuberculosis, but after reviewing your history and symptoms 
more carefully, I have decided that there is no particular 
reason to think that you have this (at least not more than any 
other random person raised in a country with high rates of TB). 
Thus, I have called off that workup due to its very low 
probability.   

We also made incidental note that your heart rate often suddenly 
speeds up to a rate of about 140 beats/minute. This seemed to 
happen randomly, not specifically when you exerted yourself. It 
could be one of several things, but my best guess without formal 
testing is ___ syndrome. This problem is not 
dangerous, but if you are bothered by heart palpitations, you 
should talk to your primary care doctor and/or a heart 
specialist. There are heart rate medicines you could take to try 
and suppress the symptom if you found it bothersome. 
 
Followup Instructions:
___